US07320972B2
4-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}phenyl trifluoromethanesulfonate (50.0 mg, 0.092 mmol) and 3-nitrophenylboronic acid (21.6 mg, 0.129 mmol) were dissolved in 1:1 toluene:ethanol (2 mL). 2.0 M aqueous potassium carbonate (0.092 mL) was added and the solution degassed. Tetrakis(triphenylphosphine)palladium(0) (5.7 mg, 0.005 mmol) was added and the reaction stirred vigorously for 2 h at refluxing temperature under a nitrogen atmosphere. The cooled reaction was diluted into dichloromethane (15 mL). The layers were separated and the aqueous layer further extracted with dichloromethane (2×5 mL). The combined extracts were dried over sodium sulfate, filtered, concentrated and purified by chromatography (12 g silica gel, 5% to 50% ethyl acetate-hexane) to afford (3R,4S)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(3′-nitrobiphenyl-4-yl)azetidin-2-one (45.0 mg, 95% yield) as a clear film; Rf 0.33 (50% ethyl acetate-hexane); 1H NMR (300 MHz, CDCl3) δ ?8.42 (m, 1H), 8.21 (ddd, J=8.1, 2.4, 1.2 Hz, 1H), 7.89 (ddd, J=7.9, 1.5, 1.2 Hz, 1H), 7.63 (d, J=8.1 Hz, 2H), 7.45 (d, J=8.1 Hz, 2H), 7.33-7.22 (m, 4H), 7.04-6.92 (m, 4H), 4.76 (t, J=6.0 Hz, 1H), 4.71 (d, J=2.1 Hz, 1H), 3.14 (m, 1H), 1.91-2.11 (m, 4H) ppm; MS [M−OH] 497.5.

reactant | 4-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}phenyl trifluoromethanesulfonate | 0.092 mmol, 50.0 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@H]1N(C([C@@H]1CC[C@H](O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F)(F)F | C25H20F5NO5S
reactant | 3-nitrophenylboronic acid | 0.129 mmol, 21.6 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | potassium carbonate | 2.0 M, 0.092 mL | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.005 mmol, 5.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (3R,4S)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(3′-nitrobiphenyl-4-yl)azetidin-2-one | 45.0 mg, 95% yield | FC1=CC=C(C=C1)N1C([C@@H]([C@H]1C1=CC=C(C=C1)C1=CC(=CC=C1)[N+](=O)[O-])CC[C@H](O)C1=CC=C(C=C1)F)=O | C30H24F2N2O4
